US07829572B2
Preparation of 2-(3-(benzyloxy)pyridin-2-yl)-3-(1-(3,4-difluorophenyl)propan-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one
4-amino-N-(1-(3,4-difluorophenyl)propan-2-yl)-2-(trifluoromethyl)nicotinamide (3.61 g, 10.05 mmol) and 3-(benzyloxy)picolinaldehyde (2.57 g, 12.1 mmol) were combined along with a catalytic amount of 4-toluenesulfonic acid (0.03 g, 0.20 mmol) in anhydrous toluene (150 mL). This was heated at reflux overnight in a round bottom flask fitted with a Dean-Stark trap. The resultant dark solution was cooled to room temperature, concentrated in vacuo to a dark brown oil. This oil was purified by silica gel column chromatography using 30% acetone/hexanes as eluant to provide the product diastereomers as an oil (4.61 g, 82% yield). 1H NMR (400 MHz, CDCl3) δ 8.2 (m, 1H), 8.0 (m, 1H), 7.3-7.6 (m, 7H), 5.15 (d, 2H), 3.0 (dd, 1H), 2.8 (m, 1H), 1.25 (d, 3H). MS m/z 555.2 (M+H)+.

reactant | 4-amino-N-(1-(3,4-difluorophenyl)propan-2-yl)-2-(trifluoromethyl)nicotinamide | 10.05 mmol, 3.61 g | NC1=CC=NC(=C1C(=O)NC(CC1=CC(=C(C=C1)F)F)C)C(F)(F)F | C16H14F5N3O
reactant | 3-(benzyloxy)picolinaldehyde | 12.1 mmol, 2.57 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C=O | C13H11NO2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-toluenesulfonic acid | 0.20 mmol, 0.03 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(3-(benzyloxy)pyridin-2-yl)-3-(1-(3,4-difluorophenyl)propan-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one | 4.61 g, 82% yield | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C1N(C(C2=C(N1)C=CN=C2C(F)(F)F)=O)C(CC2=CC(=C(C=C2)F)F)C | C29H23F5N4O2
